2155-11-24 13:14:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia, CHF, aspiration pneumonia, altered mental
   status, CRF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   (Initial note from this AM lost in system)
   Patient is doing much better this AM with improved oxygenation,
   although still requiring supplemental oxygen by mask (approximately 50%
   oxygen). Mental status improved.
   Troponins elevated.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2155-11-24**] 01:30 AM
   Vancomycin - [**2155-11-24**] 02:30 AM
   Levofloxacin - [**2155-11-24**] 12:44 PM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2155-11-24**] 01:45 AM
   Pantoprazole (Protonix) - [**2155-11-24**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-11-24**] 01:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.4
   HR: 80 (71 - 98) bpm
   BP: 97/54(65) {97/49(63) - 126/67(81)} mmHg
   RR: 16 (16 - 35) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                      5 mL
                                                                    687 mL
   PO:
             TF:
   IVF:
                                                                      5 mL
                                                                    687 mL
   Blood products:
   Total out:
                                                                     50 mL
                                                                    295 mL
   Urine:
                                                                     50 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -45 mL
                                                                    392 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: 7.46/31/107/20/0
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur throughout the precordium
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), Carotid upstroke delayed and diminished
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Crackles : Rare rale, No(t) Bronchial: , No(t) Wheezes
   : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Mildly confused, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed, Interactive
   Labs / Radiology
   9.8 g/dL
   179 K/uL
   188 mg/dL
   4.6 mg/dL
   20 mEq/L
   4.0 mEq/L
   90 mg/dL
   100 mEq/L
   137 mEq/L
   29.8 %
   15.0 K/uL
        [image002.jpg]
                            [**2155-11-24**]  12:05 AM
                            [**2155-11-24**]  05:14 AM
   WBC
   15.0
   Hct
   29.8
   Plt
   179
   Cr
   4.6
   TropT
   2.92
   TCO2
   23
   Glucose
   188
   Other labs: PT / PTT / INR:15.3/64.2/1.4, CK / CKMB /
   Troponin-T:148/15/2.92, ALT / AST:34/68, Alk Phos / T Bili:197/0.8,
   Differential-Neuts:89.9 %, Lymph:6.2 %, Mono:3.8 %, Eos:0.0 %, Lactic
   Acid:2.4 mmol/L, LDH:343 IU/L, Mg++:2.2 mg/dL
   Imaging: CXR: Large heart. Prominent vascular markings. Fullness of
   perihilar regions. Probable retrocardiac density/infiltrate
   Assessment and Plan
 HYPOXEMIA
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 .H/O PEPTIC ULCER DISEASE (PUD)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 .H/O PROSTATIC HYPERTROPHY, BENIGN (BPH)
 URINARY TRACT INFECTION (UTI)
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   CHF - DIASTOLIC, CHRONIC
   ANEMIA
   PNEUMONIA
   Respiratory distress and oxygenation improved. Patient appears volume
   depleted with marked increase in BUN/Creat ratio over the past several
   days. In addition creatinine has risen and metabolic acidosis worsened.
   I suspect patient has diastolic dysfuntion (exam suggests significant
   aortic stenosis, and old echo consistent with dx of diastolic
   dysfunction), but would not diurese further today; maintain even fluid
   balance. Continue antibiotics for probable pneumonia. Mucus plug may
   have contributed to hypoxemia.
   Hct stable. No need for transfusion now.
   Troponins elevated. Suspect demand ischemia.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2155-11-23**] 11:33 PM
   20 Gauge - [**2155-11-24**] 05:40 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2155-11-25 07:09:00 Physician Resident Progress Note
Chief Complaint: Resp distress s/p likely asp event on floor
   24 Hour Events:
 ULTRASOUND - At [**2155-11-24**] 08:45 AM- renal
   - Cardiology consulted and believe it is all demand ischemia in the
   setting of tachycardia.  Troponins continue to rise, but CK has
   flattened out.
   - Echo with Systolic dysfunction (EF 30-35%) and severe AS.
   - Patient became acutely SOB in PM, tachycardic and tachypnic with
   pressures in the high 80/40.  CXR did not show flash edema, ECG showed
   slightly worse ST elev in V1-V2 and ST depresssions in V4-V6.  Cards
   again thought it was demand ischemia and ? septic physiology from
   possible aspiration pna.  -> patient stablized after the following
   measures:
   - started back on heparin gtt
   - Broadened antibiotics to include Zosyn
   - started lasix gtt per cards recs for volume overload
   - Put on non-invasive ventilation for respiratory distress.  He
   tolerated it just long enough that his sats and tachypnea improved.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2155-11-24**] 01:30 AM
   Levofloxacin - [**2155-11-24**] 12:44 PM
   Vancomycin - [**2155-11-25**] 01:41 AM
   Piperacillin - [**2155-11-25**] 02:41 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-11-24**] 07:45 PM
   Furosemide (Lasix) - [**2155-11-24**] 11:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Genitourinary: Foley, CBI
   Integumentary (skin): No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2155-11-25**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36
C (96.8
   HR: 103 (71 - 109) bpm
   BP: 94/60(68) {86/43(56) - 113/65(75)} mmHg
   RR: 34 (16 - 36) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                    801 mL
                                                                    488 mL
   PO:
             TF:
   IVF:
                                                                    801 mL
                                                                    488 mL
   Blood products:
   Total out:
                                                                    495 mL
                                                                    450 mL
   Urine:
                                                                    495 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    306 mL
                                                                     39 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: Standby
   Vt (Spontaneous): 731 (731 - 731) mL
   PS : 10 cmH2O
   PEEP: 8 cmH2O
   FiO2: 100%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.42/30/48/19/-3
   Ve: 13.4 L/min
   PaO2 / FiO2: 69
   Physical Examination
   General Appearance: Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   half way up lung field bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   199 K/uL
   9.4 g/dL
   189 mg/dL
   5.2 mg/dL
   19 mEq/L
   3.9 mEq/L
   101 mg/dL
   95 mEq/L
   133 mEq/L
   28.2 %
   14.1 K/uL
        [image002.jpg]
                            [**2155-11-24**]  12:05 AM
                            [**2155-11-24**]  05:14 AM
                            [**2155-11-24**]  04:51 PM
                            [**2155-11-24**]  11:22 PM
                            [**2155-11-25**]  02:15 AM
                            [**2155-11-25**]  04:58 AM
                            [**2155-11-25**]  06:47 AM
   WBC
   15.0
   14.1
   Hct
   29.8
   28.2
   Plt
   179
   199
   Cr
   4.6
   5.2
   TropT
   2.92
   3.37
   3.55
   TCO2
   23
   18
   20
   20
   Glucose
   188
   189
   Other labs: PT / PTT / INR:15.8/44.7/1.4, CK / CKMB /
   Troponin-T:159/12/3.55, ALT / AST:30/48, Alk Phos / T Bili:196/0.9,
   Differential-Neuts:89.9 %, Lymph:6.2 %, Mono:3.8 %, Eos:0.0 %, Lactic
   Acid:1.8 mmol/L, LDH:359 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:5.5
   mg/dL
   Assessment and Plan
 HYPOXEMIA
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 .H/O PEPTIC ULCER DISEASE (PUD)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 .H/O PROSTATIC HYPERTROPHY, BENIGN (BPH)
 URINARY TRACT INFECTION (UTI)
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   Assessment/Plan: Patient is a [**Age over 90 **] year old male with multiple medical
   problems who is transferred to ICU for management of hypoxia in the
   setting of aspiration event and pulmonary edema after inital admission
   for UTI and MS changes.
    # Hypoxia - in the setting of worsening pulmonary edema and aspiration
   event. ABG reveals respiratory alkalosis and hypoxia PaO2 of 56.
   Received vanc and zosyn on the floor. Currently stable on high flow
   mask.
   - repeat was ABG 7.46/31/107
   - with pt's elevated Cr, will hold on CTA to r/o PE
   - will change abx to levo which will also cover UTI
   - 120mg IV lasix given w/minimal UOP
   - supplemental oxygen as needed for sat>90
   - NPO, speech swallow eval for aspiration
   - recheck BNP
   - plan for renal c/s for possible HD in AM
    # EKG changes: in pt w/h/o CAD
   - continue to cycle cardiac enzymes
   - Echocardiogram
   - heparin IV x 24 hours
   - continue ASA, statin
   - hold ACE
    # Urinary Tract Infection: no history of resistant organisms.
   - cover broadly w/levo as above
   - f/u urine cx
   - change to narrower spectrum abx per results of cx
    # Mental Status:  Neurologic exam relatively non-focal except for lack
   of orientation. Unclear what his baseline MS is. At this time, he has
   good attention and evidence of dementia but not delirium.
   - treat infections as above
   - touch base with family in AM re:pt baseline MS
    # Leukocytosis: in the setting of infection, pt afebrile since
   admission, initially covered w/cipro, then received doses of Vanc and
   Zoxyn.
   - cover w/levo and trend
   - f/u blood, urine, sputum
   # Acute Renal Failure - Baseline Creatinine now likely 3.8, currently
   elevated at 4.2 in the setting of diuresis
   - hold diuresis for now as respiratory status stable
   - UA, UCx, Urine protein/creatinine ratio
   - foley in place
   - hold ACE for now
   - renal consult in AM
   # Traumatic foley placement: w/hematuria; urology consulted on the
   floor and he had been on CBI until he cleared on day prior to transfer.
   - restart CBI
   # Essential Hypertension - continue metoprolol, watch for hypotension
   # Right rib pain- rib film negative for fracture, acetaminophen prn
   pain
   # Anemia of Chronic Disease
 stable HCT on admission
   - [**Hospital1 7**] HCT while on heparin IV
   # Gout - hold outpt meds for now
   # Depression - continue outpatient medications
   # FEN - NPO for now
   # Ppx - Heparin IV for now, IV PPI
   # Code - Full, verified w/pt and wife(HCP)
   # Dispo - ICU for now
   # Communication- w/his wife/HCP [**Name (NI) 3648**], [**Telephone/Fax (1) 3649**]
   ICU Care
   Nutrition: dysphagia diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2155-11-23**] 11:33 PM
   20 Gauge - [**2155-11-24**] 05:40 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2155-11-25 09:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, hypoxemia, aortic stenosis,
   acute respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Echo showed decreased LV function yesterday with worsening Aortic
   stenosis compared to previous echo; mitral regurg also noted. Last
   night patient became more dyspneic and was started on lasix infusion as
   well as IV heparin. Tried briefly on BiPAP, but didn't tolerate it
   well. Restarted this AM. Oxygenation remains marginal.
   Afebrile. Continues on antibiotics.
   Imdur and Amlodipine stopped yesterday.
   24 Hour Events:
 ULTRASOUND - At [**2155-11-24**] 08:45 AM
   renal
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2155-11-24**] 01:30 AM
   Levofloxacin - [**2155-11-24**] 12:44 PM
   Vancomycin - [**2155-11-25**] 01:41 AM
   Piperacillin - [**2155-11-25**] 02:41 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-11-24**] 07:45 PM
   Furosemide (Lasix) - [**2155-11-24**] 11:41 PM
   Other medications:
   Oral meds held because of possible intubation.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-11-25**] 09:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 102 (71 - 109) bpm
   BP: 95/57(62) {86/43(56) - 112/65(75)} mmHg
   RR: 19 (16 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                    801 mL
                                                                    535 mL
   PO:
             TF:
   IVF:
                                                                    801 mL
                                                                    535 mL
   Blood products:
   Total out:
                                                                    495 mL
                                                                  1,400 mL
   Urine:
                                                                    495 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    306 mL
                                                                   -865 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 817 (731 - 817) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 100%
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.42/30/48/19/-3
   Ve: 11.5 L/min
   PaO2 / FiO2: 48
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), I/VI systolic murmur; significantly quieter than yesterday
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), JVP difficult to assess
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Biabasilar rales [**Date range (1) 2390**] up
   the posterior chest, No(t) Bronchial: , Wheezes : rare wheeze
   anteriorally, No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   199 K/uL
   189 mg/dL
   5.2 mg/dL
   19 mEq/L
   3.9 mEq/L
   101 mg/dL
   95 mEq/L
   133 mEq/L
   28.2 %
   14.1 K/uL
        [image002.jpg]
                            [**2155-11-24**]  12:05 AM
                            [**2155-11-24**]  05:14 AM
                            [**2155-11-24**]  04:51 PM
                            [**2155-11-24**]  11:22 PM
                            [**2155-11-25**]  02:15 AM
                            [**2155-11-25**]  04:58 AM
                            [**2155-11-25**]  06:47 AM
   WBC
   15.0
   14.1
   Hct
   29.8
   28.2
   Plt
   179
   199
   Cr
   4.6
   5.2
   TropT
   2.92
   3.37
   3.55
   TCO2
   23
   18
   20
   20
   Glucose
   188
   189
   Other labs: PT / PTT / INR:15.8/44.7/1.4, CK / CKMB /
   Troponin-T:159/12/3.55, ALT / AST:30/48, Alk Phos / T Bili:196/0.9,
   Differential-Neuts:89.9 %, Lymph:6.2 %, Mono:3.8 %, Eos:0.0 %, Lactic
   Acid:1.8 mmol/L, LDH:359 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:5.5
   mg/dL
   Imaging: CXR (11 PM yesterday): increased interstitial edema from
   yesterday AM. Retrocardiac density
   Assessment and Plan
 HYPOXEMIA
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 .H/O PEPTIC ULCER DISEASE (PUD)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 .H/O PROSTATIC HYPERTROPHY, BENIGN (BPH)
 URINARY TRACT INFECTION (UTI)
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   CHF- diastolic chronic
   CHF - systolic, acute
   Patient's status worse over the past 24 hours. Now has systolic
   dysfunction by echo and the murmur is down significantly from yesterday
   suggesting that the patient's cardiac output is reduced. Concern that
   he is having acute ischemia; the worsening on CXR yesterday at a time
   that patient's fluid balance was near even suggests that total body
   volume overload is not the explanation for the acute change in status.
   It is not clear to me that we can really salvage the situation short of
   a valve replacement or valvuloplasty. Development of systolic CHF from
   aortic stenosis carries very high prognosis. Patient now on lasix
   infusion. Difficult to assess urine output with continuous bladder
   irrigation. Urine clear now; will try to stop the irrigation.
   Renal function continues to worsen. Concern about dropping cardiac
   output. Beginning to develop a worsening anion gap; last lactate okay.
   Gap likely represents renal failure.
   I am loathe to intubate him until we resolve the quetions surrounding
   his valve; not clear we would be able to get him off the ventilator.
   With that prognosis, the family may not want patient to be intubated.
   Hct stable. No need for transfusion now.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   22 Gauge - [**2155-11-23**] 11:33 PM
   20 Gauge - [**2155-11-24**] 05:40 AM
   Prophylaxis:
   DVT: IV heparin
   Stress ulcer:  protonix
   VAP:  Not applicable
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:  Critical Care 40 mins